US09301951B2
Intermediate 21b: N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-chlorophenyl)-isonicotinamide
Into a 50-mL round bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 4-chloro-2-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)benzenamine (300 mg, 1.17 mmol, 1.00 equiv) in ethylene glycol dimethyl ether (15 mL), N-(3-(trifluoromethyl)benzyl)-2-bromoisonicotinamide (432 mg, 1.20 mmol, 1.00 equiv), a solution of sodium carbonate (636 mg, 6.00 mmol, 5.00 equiv) in water (3.0 mL), and Pd(PPh3)4 (138 mg, 0.12 mmol, 0.10 equiv). The resulting solution was stirred for 2 h at 85° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 10 mL of water. The resulting solution was extracted with 3×10 mL of ethyl acetate and the organic layers combined, and washed with brine. The mixture was dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with petroleum ether/ethyl acetate (10:1-5:1). The product was obtained as 260 mg (55%) of a yellow solid.

reactant | 4-chloro-2-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)benzenamine | 1.17 mmol, 300 mg, 1.00 equiv | ClC1=CC(=C(C=C1)N)C1OC(C(O1)(C)C)(C)C | C13H18ClNO2
reactant | N-(3-(trifluoromethyl)benzyl)-2-bromoisonicotinamide | 1.20 mmol, 432 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)Br)=O)C=CC1)(F)F | C14H10BrF3N2O
reactant | sodium carbonate | 6.00 mmol, 636 mg, 5.00 equiv | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 15 mL | COCCOC | C4H10O2
solvent | water | 3.0 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.12 mmol, 138 mg, 0.10 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-chlorophenyl)-isonicotinamide | 260 mg, 55% | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)Cl)N)=O)C=CC1)(F)F | C20H15ClF3N3O
